US06689922B1
(Z)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyloct-6-en-3-ol
In a manner similar to Example 53(e), by reacting 431 mg (0.95 mmol) of dimethyl 4-[3-((Z)-5-ethyl-5-hydroxy-1-methylhept-1-enyl)phenoxymethyl]-phthalate with 83 mg (3.8 mmol) of lithium borohydride, a colourless oil is obtained (m=286 mg; Y=76%).

reactant | dimethyl 4-[3-((Z)-5-ethyl-5-hydroxy-1-methylhept-1-enyl)phenoxymethyl]-phthalate | 0.95 mmol, 431 mg | C(C)C(CC\C=C(\C)/C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C27H34O6
reactant | lithium borohydride | 3.8 mmol, 83 mg | [BH4-].[Li+]
product | (Z)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyloct-6-en-3-ol | OCC=1C=C(COC=2C=C(C=CC2)\C(=C/CCC(CC)(O)CC)\C)C=CC1CO | C25H34O4
